US04665075
A mixture of 5.8 parts of 7-amino-3-[4-[4-(4-fluorobenzoyl)-1-piperidinyl]butyl]-2,4(1H,3H)-quinazolinedione, 100 parts of acetic acid and 2.5 parts of acetic acid anhydride was stirred at reflux temperature. The reaction mixture was evaporated. The residue was stirred in water and ammonium hydroxide. The product was filtered off, washed with water and boiled in ethanol. After cooling, the product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 6.3 parts (100%) of N-[3-[4-[4-(4-fluorobenzoyl)-1-piperidinyl]butyl]-1,2,3,4-tetrahydro-2,4-dioxo-7-quinazolinyl]-acetamide; mp. 273.1° C. (18).

reactant | 7-amino-3-[4-[4-(4-fluorobenzoyl)-1-piperidinyl]butyl]-2,4(1H,3H)-quinazolinedione | NC1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C24H27FN4O3
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[3-[4-[4-(4-fluorobenzoyl)-1-piperidinyl]butyl]-1,2,3,4-tetrahydro-2,4-dioxo-7-quinazolinyl]-acetamide | 100% | FC1=CC=C(C(=O)C2CCN(CC2)CCCCN2C(NC3=CC(=CC=C3C2=O)NC(C)=O)=O)C=C1 | C26H29FN4O4
